US05202423
1-(2-Pyridylcarbonylmethyl)pyridinium iodide, 5
2-Acetylpyridine (1.21 g, 10.0 mmol) and iodine (2.54 g, 10.0 mmol) were heated to reflux in pyridine (12 ml) for 1 hour. The solution was cooled, and the dark precipitate was filtered and washed with pyridine.

reactant | 2-Acetylpyridine | 10.0 mmol, 1.21 g | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | iodine | 10.0 mmol, 2.54 g | II | I2
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-Pyridylcarbonylmethyl)pyridinium iodide | [I-].N1=C(C=CC=C1)C(=O)C[N+]1=CC=CC=C1 | InChI=1S/C12H11N2O.HI/c15-12(11-6-2-3-7-13-11)10-14-8-4-1-5-9-14;/h1-9H,10H2;1H/q+1;/p-1
